Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
nuts / verapamil / Tegretol / lisinopril / Enablex / Lipitor / 
pravastatin / simvastatin / epinephrine / Demerol / Sulfa 
(Sulfonamide Antibiotics) / Penicillins / Plaquenil
 
Attending: ___.
 
Chief Complaint:
weakness, diarrhea, BRBPR
 
Major Surgical or Invasive Procedure:
Chest tube insertion by IP on ___ and removal on ___
Flexible sigmoidoscopy with biopsy by GI on ___

 
History of Present Illness:
___ is a ___ female with recent diagnosis of high grade
serous ovarian CA w/ erosion into the sigmoid who was recently
discharged from ___ on ___ where she had presented with a
large abdominal/pelvic mass following progressive malaise and
weight loss. She underwent an ultrasound guided biopsy which
confirmed ovarian CA. Following discharge, she saw Dr. ___ 
in
the ___ clinic on ___. She was distended and
uncomfortable. She had an ultrasound guided paracentesis 
arranged
where 4.5 L was drained. She was also referred to medical
oncology to discuss neoadjuvant chemotherapy given her disease
bulk.

Patient reports that she had progressive weakness w/ continue
diarrhea, passing small amounts of watery stools 10 times per
day. She also had a 4 hours period yesterday evening where she
passed bright red blood per rectum with associated clots. She
called the ___ clinic complaining of above symptoms and was
referred to the ED. 

In the ED, patient was hemodynamically stable. She had
leukocytosis to 14k w/ thorombocytosis and Hct 38%. She was 
given
1 L of IVF. She was seen by gyn oncology consult team who
recommended medical admission for possible initiation of
chemotherapy as an inpatient. 

 
Past Medical History:
Only major abdominal surgery is C-section x3
GERD
Hypertension
Stage I malignant melanoma (diagnosed and excised ___
Microscopic collagenous colitis
Overactive bladder
Arthritis, ? of RA vs. lupus
 
Social History:
___
Family History:
No family history of ovarian cancer or breast
cancer. Father w/ colon polyp (without colon cancer as far as 
she
knows) and prostate cancer.

 
Physical Exam:
ADMISSION PHYSICAL EXAM
=============================
VS: ___ 0110 Temp: 97.9 PO BP: 133/75 HR: 83 RR: 18 O2 sat:
91% O2 delivery: RA 
GENERAL: Pleasant, lying in bed comfortably
EYES: Anicteric sclerea, PERLL, EOMI; 
ENT: Oropharynx clear without lesion, JVD not elevated 
CARDIOVASCULAR: Regular rate and rhythm, no murmurs, rubs, or
gallops; 2+ radial pulses, 2+ DP pulses
RESPIRATORY: Appears in no respiratory distress, clear to
auscultation bilaterally, no crackles, wheezes, or rhonchi
GASTROINTESTINAL: Normal bowel sounds; distended but soft,
nontender without rebound or guarding; no hepatomegaly, no
splenomegaly
MUSKULOSKELATAL: Warm, well perfused extremities without lower
extremity edema; Normal bulk 
NEURO: Alert, oriented, CN II-XII intact, motor and sensory
function grossly intact
SKIN: No significant rashes
LYMPHATIC: No cervical, supraclavicular, submandibular
lymphadenopathy. No significant ecchymoses

DISCHARGE PHYSICAL EXAM
========================
Vitals:
___ 0706 Temp: 97.6 PO BP: 120/65 HR: 80 RR: 18 O2 sat: 98%
O2 delivery: RA 
GENERAL: NAD
CARDIOVASCULAR: Regular rate and rhythm, no murmurs, rubs, or
gallops; 2+ radial pulses
RESPIRATORY: CTAB 
GASTROINTESTINAL: soft, mild distention, NTTP
MUSKULOSKELATAL: Warm, well perfused extremities
NEURO: Alert, oriented, CN II-XII intact, motor and sensory
function grossly intact
SKIN: No significant rashes
LYMPHATIC: No cervical, supraclavicular, submandibular
lymphadenopathy. No significant ecchymosis
EXTREMITIES: WWP

 
Pertinent Results:
ADMISSION LABS
============================
___ 12:00PM BLOOD WBC-14.4* RBC-4.50 Hgb-11.5 Hct-38.0 
MCV-84 MCH-25.6* MCHC-30.3* RDW-15.6* RDWSD-47.8* Plt ___
___ 12:00PM BLOOD Neuts-83.5* Lymphs-7.4* Monos-6.9 
Eos-0.9* Baso-0.3 Im ___ AbsNeut-12.01* AbsLymp-1.07* 
AbsMono-1.00* AbsEos-0.13 AbsBaso-0.05
___ 12:00PM BLOOD ___ PTT-21.4* ___
___ 12:00PM BLOOD Plt ___
___ 12:00PM BLOOD Glucose-123* UreaN-17 Creat-0.7 Na-135 
K-4.7 Cl-97 HCO3-27 AnGap-11
___ 07:14AM BLOOD ALT-8 AST-19 AlkPhos-66 TotBili-0.2

MICRO LABS
============================
___ 1:00 pm URINE      N. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

___ 10:36 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile PCR (Final ___: 
      Reported to and read back by ___ AT 
0619 ON
      ___. 
      POSITIVE. 
         The C. difficile PCR is highly sensitive for toxigenic 
strains of
         C. difficile and detects both C. difficile infection 
(CDI) and
         asymptomatic carriage. Therefore, positive C. diff PCR 
tests
         trigger reflex C. difficile toxin testing, which is 
highly
         specific for CDI. 

   C. difficile Toxin antigen assay (Final ___: 
      NEGATIVE.              (Reference Range-Negative).  
PERFORMED BY EIA. 
         This result indicates a low likelihood of C. difficile 
infection
         (CDI). 

___ 10:36 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      No E. coli O157:H7 found. 

___ 2:48 pm PLEURAL FLUID      LEFT SIDE PLEURAL FLUID. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___: 
      MORGANELLA ___.    RARE GROWTH. 
         Identification and susceptibility testing performed on 
culture # 
         ___. 

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


___ 2:48 pm FLUID RECEIVED IN BLOOD CULTURE BOTTLES
      LEFT SIDE PLEURAL FLUID. 

                            **FINAL REPORT ___

   Fluid Culture in Bottles (Final ___: 
      ___.    FINAL SENSITIVITIES. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ___
                             |   
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

   Anaerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___ @ 0400 ON ___ - 
___. 
      GRAM NEGATIVE ROD(S). 

   Aerobic Bottle Gram Stain (Final ___:    GRAM NEGATIVE 
ROD(S). 

___ 8:25 am FLUID RECEIVED IN BLOOD CULTURE BOTTLES
      PLEURAL FLUID COLLECTED IN BLOOD CULTURE BOTTLE. 

                            **FINAL REPORT ___

   Fluid Culture in Bottles (Final ___:    NO GROWTH. 

***** BCX PENDING *****

___ 8:06 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile PCR (Final ___: 
      NEGATIVE. 
           (Reference Range-Negative). 
      The C. difficile PCR is highly sensitive for toxigenic 
strains of C.
      difficile and detects both C. difficile infection (CDI) 
and
      asymptomatic carriage. 
      A negative C. diff PCR test indicates a low likelihood of 
CDI or
      carriage. 

OTHER FLUID ANALYSIS
=========================
___ 02:48PM PLEURAL ___ ___ Polys-60* 
Lymphs-30* ___ Meso-3* Macro-5* Other-2*
___ 02:48PM PLEURAL TotProt-2.9 Glucose-135 LD(LDH)-210 
Cholest-78 proBNP-320
___ 10:04AM ASCITES TNC-548* RBC-1107* Polys-43* Lymphs-11* 
___ Macroph-46*
___ 10:04AM ASCITES TotPro-3.2 Glucose-74 Creat-0.4 
LD(LDH)-338 Amylase-6 TotBili-0.3 Albumin-1.6

IMAGING
==========================
CT ABDOMEN AND PELVIS ___. Extensive intraperitoneal metastasis appears similar to ___.  No new mass is identified. 
2. 1.9 cm area of hypoenhancement is identified in the upper 
pole of left 
kidney.  Please clinically correlate for any pyelonephritis. 

CT CHEST ___
Increasing left-sided pleural effusion, now moderate in size 
with substantial left lower lobe atelectasis.  Trace new 
right-sided pleural effusion. 

CXR ___
Pigtail catheter has been discontinued.  Left pleural effusion 
is small, 
unchanged.  Minimal left apical pneumothorax is unchanged.  
Right pleural 
effusion is small to moderate.  Atelectasis in the right lung 
base is 
unchanged.  Cardiomediastinal silhouette is stable. 

CTAP ___:
1. Predominantly stable peritoneal and omental metastases.  2 
peritoneal 
nodules in the right lower quadrant are slightly decreased in 
size.  The 
conglomerate mass in the pelvis is slightly decreased in size, 
it compresses 
the sigmoid colon however there is no evidence of colonic 
obstruction.  Please 
note that tumor infiltration into the sigmoid colon cannot be 
excluded. 
2. New right moderate pleural effusion, small to moderate left 
pleural 
effusion is slightly decreased in size 
3. Small amount of ascites decreased from prior study 

DISCHARGE LABS
===========================
___ 05:47AM BLOOD WBC-5.2 RBC-3.38* Hgb-8.9* Hct-29.0* 
MCV-86 MCH-26.3 MCHC-30.7* RDW-18.8* RDWSD-58.9* Plt ___
___ 05:47AM BLOOD Glucose-88 UreaN-7 Creat-0.5 Na-136 K-4.3 
Cl-96 HCO3-29 AnGap-11
 
Brief Hospital Course:
This is a ___ yo woman with recent diagnosis of stage IV high 
grade serous ovarian CA who presented with diarrhea and BRBPR, 
found to have partial bowel obstruction from sigmoid mass and as 
well as malignant pleural effusion and ascites. 

#Partial bowel obstruction
Underwent flex sigmoidoscopy on ___ which demonstrated friable 
distal sigmoid mass with extrinsic compression of the rectum and 
sigmoid colon from a pelvic mass. Her diarrhea was thus felt to 
represent overflow incontinence in the setting of partial distal 
obstruction. She was managed here conservatively with a course 
notable for difficult to manage symptoms oscillating between 
obstruction symptoms and fecal incontinence. For her fecal 
incontinence, we considered placing a flexiseal but this was 
deferred in the setting of distal sigmoid mass. A palliative 
sigmoid stent was also considered but the ERCP team felt it was 
unlikely to stay in place due to extrinsic compression. She is 
not a good candidate for diverting colostomy per surgery. 
Loperamide 2mg once a day calmed her symptoms when they were 
particularly unbearable (she was sensitive to this medication 
and higher doses worsened her obstructive symptoms). She 
continued to have intermittent bleeding from her sigmoid mass, 
which manifested as some mild BRBPR requiring 2 blood 
transfusions. On discharge, she was in manageable place with 
regards to her symptoms. The hope is that ongoing chemo will 
provide further support by decreasing disease burden. She 
received cycle 2 ___ in house (___). 

#High grader serous ovarian cancer
Carboplatin C1D1 on ___, C2 carboplatin/taxol (___). 
Both cycles were well tolerated.

#Urinary frequency
Ms. ___ had urinary frequency likely from tumor compression on 
her bladder on top of her chronic urge incontinence. Her home 
oxybutynin was avoided in the setting of her partial bowel 
obstruction. A foley was placed for symptomatic relief but was 
ultimately removed given infection risk.

#Malignant pleural effusion with superinfection
Found to have an enlarging left pleural effusion on imaging. IP 
placed a chest tube with good effect. Cytology was positive for 
malignant cells consistent with her known ovarian cancer. Her 
pleural fluid culture grew out morganella, which was somewhat 
surprising given her lack of infectious symptoms. She completed 
a 2 week course of ciprofloxacin. Repeat CXR on ___ showed 
recurrence of bilateral pleural effusion but given absence of 
respiratory and infectious symptoms, repeat pleural tap was 
deferred. 

#Malignant ascites
Underwent therapeutic paracentesis by ___ on ___. Labs and 
culture were incompatible with SBP. 

#Leukocytosis
Likely reflects immune response to malignancy vs prednisone txt 
for rheumatoid arthritis. Her WBC returned to normal prior to 
discharge. 

#Rheumatoid arthritis
Continued prednisone 10 mg daily 

Transitional Issues
===========================
- CONTINUE miconazole powder 2% 1 appl BID for 7 more days for 
breast rash (last day ___

[] Per primary oncologist, Ms. ___ will need outpatient BRCA2 
testing. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Hydroxychloroquine Sulfate 200 mg PO BID 
3. PredniSONE 10 mg PO DAILY 
4. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
5. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Moderate 

  Reason for PRN duplicate override: Alternating agents for 
similar severity
6. LOPERamide 2 mg PO QID:PRN diarrhea 
7. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Miconazole Powder 2% 1 Appl TP BID 
RX *miconazole nitrate 2 % 1 application twice a day Disp #*1 
Bottle Refills:*0 
2.  Ondansetron 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 
RX *ondansetron 8 mg 1 tablet(s) by mouth every 8 hours Disp 
#*30 Tablet Refills:*0 
3.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
4.  Atenolol 50 mg PO DAILY  
5.  LOPERamide 2 mg PO QID:PRN diarrhea  
6.  Omeprazole 20 mg PO DAILY  
7.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*50 Tablet Refills:*0 
8.  PredniSONE 10 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Stage IV metastatic high grade serous ovarian adenocarcinoma

Secondary diagnosis:
SVT
Rheumatic arthritis
Malignant pleural effusion with superinfection 
Malignant ascites 
Urinary frequency from tumor compression and bladder 
overactivity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

WHY WAS I ADMITTED?
- You were admitted for management of a partial bowel 
obstruction related to your ovarian cancer. 

WHAT WAS DONE WHILE I WAS HERE?
-You underwent a flexible sigmoidoscopy which showed a large 
malignant mass in your sigmoid colon. This mass and cancer 
spread elsewhere in your pelvis was the cause of your 
diarrhea/obstruction symptoms and bloody stools. Your symptoms 
were managed with medication, bowel rest, chemotherapy, and 
blood transfusions as required. 

-You started chemotherapy with carboplatin here on ___. You 
received a second cycle of chemotherapy on ___.

-You were found to have a large left lung effusion related to 
your cancer. A chest tube was placed for drainage. You completed 
a 14 day course of antibiotics for infection noted in your lung 
fluid fluid. 

-You underwent drainage of fluid accumulating in your abdomen. 

 
WHAT SHOULD I DO NOW?
- You should take your medications as instructed
- You should go to your doctor's appointments as below
- You should keep in close contact with your oncologist

We wish you the best!
- Your ___ Care Team

 
Followup Instructions:
___